US07071219B2
A suspension of 1.1 g (5 mmol) potassium 5-methoxycarbonyl-pyridine-2-carboxylate, 0.9 ml (12 mmol) thionyl chloride and 0.1 ml DMF in 5 ml dichloroethane was heated at reflux for 2 h. To the reaction mixture 5 ml CH2Cl2 were added and the solvent was evaporated. This procedure was repeated three times. The residue was suspended in 5 ml CH2Cl2 and a solution of 9.95 ml (5.5 mmol) 2-diisopropylaminoethylamine, 0.97 ml (7 mmol) triethylamine, 0.1 ml DMF in 5 ml CH2Cl2 was added under ice-cooling. After stirring for 12 h at rt the organic phase was extracted with water, 5% citric acid and aqueous NaHCO3 and dried over magnesium sulfate. After evaporation of the solvent the residue was subjected to silica gel chromatography (20% MeOH and 1% triethylamine in ethyl acetate) to yield 1.15 g (3.7 mmol) 6-(2-diisopropylamino-ethylcarbamoyl)-nicotinic acid methyl ester; exact MW [M+H] calcd: 308.20; MW .found [M+H]: 308.20.

reactant | potassium 5-methoxycarbonyl-pyridine-2-carboxylate | 5 mmol, 1.1 g | COC(=O)C=1C=CC(=NC1)C(=O)[O-].[K+]
reactant | thionyl chloride | 12 mmol, 0.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-diisopropylaminoethylamine | 5.5 mmol, 9.95 ml | C(C)(C)N(CCN)C(C)C | C8H20N2
reactant | triethylamine | 7 mmol, 0.97 ml | C(C)N(CC)CC | C6H15N
solvent | dichloroethane | 5 ml | ClC(C)Cl | C2H4Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
product | 6-(2-diisopropylamino-ethylcarbamoyl)-nicotinic acid methyl ester | 3.7 mmol, 1.15 g | COC(C1=CN=C(C=C1)C(NCCN(C(C)C)C(C)C)=O)=O | C16H25N3O3
